US07435815B2
Ethyl-(1H-indol-3-ylmethyl)-amine
prepared by reaction of ethylamine with 1H-indole-3-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | 1H-indole-3-carbaldehyde | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | Ethyl-(1H-indol-3-ylmethyl)-amine | C(C)NCC1=CNC2=CC=CC=C12 | C11H14N2
